US06544990B2
To a solution of ethyl 4-amino-3-iodobenzoate (8.0 g) in CH2Cl2 (56 mL) cooled to 0° C. is added diisobutylaluminum hydride in CH2Cl2 (110 mL of a 1M solution). The reaction is stirred at 0° C. for 2 h then quenched by the addition of MeOH (50 mL). To this is added 1N HCl (100 mL). The mixture is concentrated to remove the organics. The aqueous solution is extracted with CH2Cl2 (3×). The combined organic layers are dried over Na2SO4, filtered and condensed. The resulting residue is adsorbed onto silica and chromatographed (Biotage flash 40M, eluent CH2Cl2 (2L), 1% MeOH/CH2Cl2 (2L), 2% MeOH/CH2Cl2). Fractions homogeneous by TLC are combined and condensed to afford (4-amino-3-iodophenyl)methanol.

reactant | ethyl 4-amino-3-iodobenzoate | 8.0 g | NC1=C(C=C(C(=O)OCC)C=C1)I | C9H10INO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | CH2Cl2 | 56 mL | C(Cl)Cl | CH2Cl2
product | (4-amino-3-iodophenyl)methanol | NC1=C(C=C(C=C1)CO)I | C7H8INO
